US07531532B2
(2S)-1-(Methylamino)-3-(pyrrolidin-1-yl)-2-propanol
(2R)-1-(Benzylmethylamino)-3-(pyrrolidin-1-yl)-2-propanol (420 mg) was dissolved in methanol (10 ml). 10% Palladium hydroxide carbon (460 mg) was added thereto, followed by stirring under hydrogen atmosphere for 4.5 hours. The reaction mixture was filtered to remove the catalyst, and the catalyst was washed with methanol. The filtrate and the washings were combined and concentrated under reduced pressure to give a residue, which was dried under reduced pressure to provide the titled compound (232 mg, 87%) as a colorless oil.

reactant | (2R)-1-(Benzylmethylamino)-3-(pyrrolidin-1-yl)-2-propanol | 420 mg | C(C1=CC=CC=C1)CNC[C@H](CN1CCCC1)O | C15H24N2O
solvent | methanol | 10 ml | CO | CH4O
catalyst | Palladium hydroxide carbon | 460 mg | [C+4].[OH-].[Pd+2].[OH-].[OH-].[OH-].[OH-].[OH-]
product | (2S)-1-(Methylamino)-3-(pyrrolidin-1-yl)-2-propanol | 232 mg, 87% | CNC[C@@H](CN1CCCC1)O | C8H18N2O
